US06894050B2
Preparation of Intermediate 6-Methyl-pyridine-2-carbonitrile (I-4h)
2-Methyl-pyridine 1-oxide (10.9 g, 100 mmol) was dissolved into methylene chloride (100 mL) and dried over MgSO4. The solution was filtered and the filtrate was added to trimethylsilyl cyanide (16.7 mL, 125 mmol) at ambient temperature. To which was added dropwise a solution of dimethylcarbamyl chloride (11.5 mL, 125 mmol) in methylene chloride (25 mL). The resulting mixture was stirred at ambient temperature for 24 h. A solution of 10% K2CO3 was added slowly to the reaction mixture and stirring was continued for 10 minutes after the addition was complete. The layers were separated and the aqueous layer was extracted with methylene chloride (2×50 mL). The combined organic extracts were dried (Na2SO4), and concentrated to dryness under high vacuum to yield the title compound I-4h (6.64 g).

reactant | 2-Methyl-pyridine 1-oxide | 100 mmol, 10.9 g | CC1=[N+](C=CC=C1)[O-] | C6H7NO
reactant | trimethylsilyl cyanide | 125 mmol, 16.7 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | dimethylcarbamyl chloride | 125 mmol, 11.5 mL | CN(C(=O)Cl)C | C3H6ClNO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 6-Methyl-pyridine-2-carbonitrile | CC1=CC=CC(=N1)C#N | C7H6N2
